US06894042B2
Methyl 2-cyano-1-benzofuran-5-carboxylate (426 mg, 2.0 mmol) is dissolved in MeOH (10 ml). The solution is cooled to 0° C., is treated with LiOH monohydrate (168 mg, 4.0 mmol) in H2O (4 ml), and the reaction is stirred 6 h at RT. The volatiles are removed in vacuo and the residue is dissolved in H2O (10 ml). The pH of the mixture is adjusted to 1.9 with 12N HCl, the white solid is collected, washed with water, and is dried to give 401 mg (97%) of 2-(aminocarbonyl)-1-benzofuran-5-carboxylic acid as an off-white solid. MS (EI) calcd for C10H7NO4: 205.0375, found 205.0369 (M)+.

reactant | Methyl 2-cyano-1-benzofuran-5-carboxylate | 2.0 mmol, 426 mg | C(#N)C=1OC2=C(C1)C=C(C=C2)C(=O)OC | C11H7NO3
reactant | MeOH | 10 ml | CO | CH4O
solvent | H2O | 4 ml | O | H2O
product | 2-(aminocarbonyl)-1-benzofuran-5-carboxylic acid | 401 mg, 97% | NC(=O)C=1OC2=C(C1)C=C(C=C2)C(=O)O | C10H7NO4
